US06251947B1
A solution of 5.0 g (24.4 mmol) of 2-(2-hydroxy-1-methylethyl)-1H-isoindole-1,3(2H)-dione (Y. Becker, A. Eisenstadt, J. K. Stille, J. Org. Chem., 1980, 45, 2145) and triphenylphosphine (7.00 g, 27.0 mmol) in 40 mL of dry tetrahydrofuran was stirred at 20° C. for 1 h. To the solution was added 2-ethylphenol (3.90 g, 32.0 mmol) and diethyl azodicarboxylate (5.0 mL, 32.0 mmol) and the solution was stirred an additional 40 h. The reaction mixture was concentrated in vacuo and the residue was diluted in diethyl ether and washed with water and brine. The organic layer was concentrated in vacuo and the crude product was purified by flash silica chromatography using 5% ethyl acetate/hexanes solution as eluent to give 3.0 g (40%) of 2-[2-(2-ethylphenoxy)-1-methylethyl]-1H-isoindole-1,3(2H)-dione as a colorless oil: 1H NMR (CDCl3) δ 0.96 (t, 3H), 1.60 (d, 3H), 2.40 (m, 2H), 4.18 (dd, 1H), 4.48 (t, 1H), 4.84 (m, 1H), 6.80 (m, 1H), 6.90 (m, 1H), 7.10 (m, 2H), 7.70 (m, 2H), 7.84 (m, 2H).

reactant | 2-(2-hydroxy-1-methylethyl)-1H-isoindole-1,3(2H)-dione | 24.4 mmol, 5.0 g | OCC(C)N1C(C2=CC=CC=C2C1=O)=O | C11H11NO3
reactant | triphenylphosphine | 27.0 mmol, 7.00 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-ethylphenol | 32.0 mmol, 3.90 g | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | diethyl azodicarboxylate | 32.0 mmol, 5.0 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-[2-(2-ethylphenoxy)-1-methylethyl]-1H-isoindole-1,3(2H)-dione | 3.0 g, 40% | C(C)C1=C(OCC(C)N2C(C3=CC=CC=C3C2=O)=O)C=CC=C1 | C19H19NO3
